US20010056188A1
Synthesis of 3-[3,5-Bis(trifluoromethyl)phenylamino]-2-(4-chlorophenylsulfonyl)-3-(5-cyclopropyl-2-methyl-2H-pyrazol-3-ylamino)-2-propenenitrile
To a solution of 3-(3,5-bis(trifluoromethyl)phenylamino)-2-(4-chloro-phenylsulfonyl)-3-methylsulfanyl-2-propenenitrile (0.300 g, 0.6 mmol) in dry acetonitrile (1.0 ml), triethylamine (0.100 ml, 0.7 mmol) and 5-amino-3-cyclopropyl-1-methyl pyrazole (0.100 g, 0.7 mmol) were added. The reaction mixture was stirred for 41 h at 80° C. under nitrogen and then concentrated. The residue was worked up as described in Example 17,2) to give 90 mg (25%) of the title compound. 1H NMR (200 MHz, CDCl3): δ=0.7 (m, 2H), 0.9 (m, 2H), 1.85 (m, 1H), 3.5 (s, 3H), 5.3 (s, 1H), 5.4 (s, 1H), 5.85 (s, 1H), 7.28 (s, 2H), 7.53 (d, 2H), 7.63 (s, 1H), 7.8 (d, 2H); El SP/MS: 589 (M+).

reactant | 3-(3,5-bis(trifluoromethyl)phenylamino)-2-(4-chloro-phenylsulfonyl)-3-methylsulfanyl-2-propenenitrile | 0.6 mmol, 0.300 g | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=C(C#N)S(=O)(=O)C1=CC=C(C=C1)Cl)SC)(F)F | C18H11ClF6N2O2S2
reactant | triethylamine | 0.7 mmol, 0.100 ml | C(C)N(CC)CC | C6H15N
reactant | 5-amino-3-cyclopropyl-1-methyl pyrazole | 0.7 mmol, 0.100 g | NC1=CC(=NN1C)C1CC1 | C7H11N3
solvent | acetonitrile | 1.0 ml | C(C)#N | C2H3N
product | 3-[3,5-Bis(trifluoromethyl)phenylamino]-2-(4-chlorophenylsulfonyl)-3-(5-cyclopropyl-2-methyl-2H-pyrazol-3-ylamino)-2-propenenitrile | 90 mg, 25% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=C(C#N)S(=O)(=O)C1=CC=C(C=C1)Cl)NC=1N(N=C(C1)C1CC1)C)(F)F | C24H18ClF6N5O2S
